US08030354B2
2′-Fluoro-2-formyl-5′-methoxy-biphenyl-4-carboxylic acid methyl ester (66.41C).
To a round bottle flask, was added methyl 3-formyl-4-(trifluoromethylsulfonyloxy)benzoate (6300 mg, 20 mmol), 2-fluoro-5-methoxyphenylboronic acid (10 g, 61 mmol) (commercially available from Aldrich), potassium phosphate tribasic (6.6 mL, 81 mmol) (granular) and tetrakis(triphenylphosphine)palladium (2.3 g, 2.0 mmol). The flask was flushed with nitrogen, DME was added, and the mixture was heated at 90° C. for 6 hours. The reaction mixture was diluted with EtOAc and water. The organic phase was washed with water and brine and then dried over anhydrous sodium sulfate. After filtration, the organic solvent was removed in vacuo to give a residue which was purified by chromatography to give the product as a yellow solid (5.80 g, 100%). MS ESI m/e: 289.2 (M+H)+.

reactant | methyl 3-formyl-4-(trifluoromethylsulfonyloxy)benzoate | 20 mmol, 6300 mg | C(=O)C=1C=C(C(=O)OC)C=CC1OS(=O)(=O)C(F)(F)F | C10H7F3O6S
reactant | 2-fluoro-5-methoxyphenylboronic acid | 61 mmol, 10 g | FC1=C(C=C(C=C1)OC)B(O)O | C7H8BFO3
reactant | potassium phosphate tribasic | 81 mmol, 6.6 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 2.0 mmol, 2.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-Fluoro-2-formyl-5′-methoxy-biphenyl-4-carboxylic acid methyl ester | 5.80 g, 100% | COC(=O)C1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)C=O | C16H13FO4
